US06136825
A mixture of (R)-7-bromo-1,4-benzodioxan-2-ylmethyl 4-toluenesulphonate (6.5 g, prepared as described in WO97/03071), N-benzylidene-4-piperidylmethylamine (3.0 g), potassium carbonate (4.1 g), and potassium iodide (10 mg) in acetonitrile (200 ml) was heated at reflux, with stirring, under nitrogen for 24 hours. The reaction was cooled, filtered and concentrated under reduced pressure to afford (S)-N-benzylidene-1-[1-(7-bromo-1,4-benzodioxan-2-ylmethyl)-4-piperidyl]methylamine (6.3 g) as an orange-brown viscous oil.

reactant | (R)-7-bromo-1,4-benzodioxan-2-ylmethyl 4-toluenesulphonate | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C=C(C=C2)Br)C | C16H15BrO5S
reactant | N-benzylidene-4-piperidylmethylamine | 3.0 g | C(C1=CC=CC=C1)=NCC1CCNCC1 | C13H18N2
reactant | potassium carbonate | 4.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
catalyst | potassium iodide | 10 mg | [I-].[K+]
product | (S)-N-benzylidene-1-[1-(7-bromo-1,4-benzodioxan-2-ylmethyl)-4-piperidyl]methylamine | 6.3 g | C(C1=CC=CC=C1)=NCC1CCN(CC1)C[C@H]1COC2=C(O1)C=C(C=C2)Br | C22H25BrN2O2
